US05925667
1-ethyl-2-(2,4-diprenyloxybenzoylaminomethyl)pyrrolidine
In a manner identical to Example 15, 2,4-diprenyloxybenzoic acid (1.45 g) was subjected to a condensation reaction with 2-aminomethyl-1-ethylpyrrolidine (0.7 ml), thereby yielding 1.96 g (98%) of the aimed compound.

reactant | 2,4-diprenyloxybenzoic acid | 1.45 g | C(C=C(C)C)OC1=C(C(=O)O)C=CC(=C1)OCC=C(C)C | C17H22O4
reactant | 2-aminomethyl-1-ethylpyrrolidine | 0.7 ml | NCC1N(CCC1)CC | C7H16N2
product | 1-ethyl-2-(2,4-diprenyloxybenzoylaminomethyl)pyrrolidine | 1.96 g, 98% | C(C)N1C(CCC1)CNC(C1=C(C=C(C=C1)OCC=C(C)C)OCC=C(C)C)=O | C24H36N2O3
